### PR TITLE
feat: Add Erdős Problem 61

### PR DESCRIPTION
**Pull request by cosmicgenius**
Fix https://github.com/google-deepmind/formal-conjectures/issues/274

### CODE REVIEW

File: FormalConjectures/ErdosProblems/61.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+
+/-!
+For a graph $H$, consider all graphs $G$ that do not contain $H$ as an induced subgraph.
+We would like to find a lower bound $f(n)$ such that every such $G$ on $n$ vertices
+has a clique or independent set of size $\ge f(n)$ for sufficiently large $n$.
+-/
+def ErdosHajnalLowerBound {α : Type*} [Fintype α] [DecidableEq α]
+  (H : SimpleGraph α) (f : ℕ → ℝ) : Prop :=
+  ∀ᶠ n in atTop, ∀ G : SimpleGraph (Fin n),
+    ¬ (∃ f : α ↪ Fin n, H = G.comap f) → G.indepNum ≥ f n ∨ G.cliqueNum ≥ f n
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]: `f` is already present so let's use another variable name!
```suggestion
    ¬ (∃ g : α ↪ Fin n, H = G.comap g) → G.indepNum ≥ f n ∨ G.cliqueNum ≥ f n
```

File: FormalConjectures/ErdosProblems/61.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+open Real
+
+namespace Erdos61
+
+/-!
+For a graph $H$, consider all graphs $G$ that do not contain $H$ as an induced subgraph.
+We would like to find a lower bound $f(n)$ such that every such $G$ on $n$ vertices
+has a clique or independent set of size $\ge f(n)$ for sufficiently large $n$.
+-/
+def ErdosHajnalLowerBound {α : Type*} [Fintype α] [DecidableEq α]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]:
```suggestion
def IsErdosHajnalLowerBound {α : Type*} [Fintype α] [DecidableEq α]
```

File: FormalConjectures/ErdosProblems/61.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+
+/--
+The Erdős–Hajnal Conjecture states that there is a constant $c(H)$ for each
+$H$ such that we can take $f(n) = n^{c(H)}$ in the above formulation.
+-/
+@[category research open, AMS 05]
+theorem erdos_61:
+    (∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
+      ∃ c : ℝ, ErdosHajnalLowerBound H (fun n : ℕ => (n : ℝ) ^ c)) ↔ answer(sorry) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean:49]: Doesn't the problem also require that `c` is positive? (same for the two statements below)

File: FormalConjectures/ErdosProblems/61.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+
+/-!
+For a graph $H$, consider all graphs $G$ that do not contain $H$ as an induced subgraph.
+We would like to find a lower bound $f(n)$ such that every such $G$ on $n$ vertices
+has a clique or independent set of size $\ge f(n)$ for sufficiently large $n$.
+-/
+def IsErdosHajnalLowerBound {α : Type*} [Fintype α] [DecidableEq α]
+  (H : SimpleGraph α) (f : ℕ → ℝ) : Prop :=
+  ∀ᶠ n in atTop, ∀ G : SimpleGraph (Fin n),
+    ¬ (∃ g : α ↪ Fin n, H = G.comap g) → G.indepNum ≥ f n ∨ G.cliqueNum ≥ f n
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]: (to make it how this is elaborated a little clearer)
```suggestion
  ∀ᶠ n in atTop, ∀ G : SimpleGraph (Fin n),
    (¬∃ g : α ↪ Fin n, H = G.comap g) → G.indepNum ≥ f n ∨ G.cliqueNum ≥ f n
```

File: FormalConjectures/ErdosProblems/61.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+
+/--
+The Erdős–Hajnal Conjecture states that there is a constant $c(H) > 0$ for each
+$H$ such that we can take $f(n) = n^{c(H)}$ in the above formulation.
+-/
+@[category research open, AMS 05]
+theorem erdos_61:
+    (∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
+      ∃ c : ℝ, c > 0 ∧ IsErdosHajnalLowerBound H (fun n : ℕ => (n : ℝ) ^ c)) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]:
```suggestion
theorem erdos_61 :
    (∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
      ∃ c > (0 : ℝ), IsErdosHajnalLowerBound H (fun n : ℕ => (n : ℝ) ^ c)) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/61.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+/--
+Erdős and Hajnal [ErHa89] proved that we can take $f(n) = \exp(c_H \sqrt{\log n})$
+for some constant $c_H > 0$ dependending on $H$.
+
+[ErHa89] Erdős, P. and Hajnal, A., Ramsey-type theorems. Discrete Appl. Math. (1989), 37-52.
+-/
+@[category research solved, AMS 05]
+theorem erdos_61.variants.erha89:
+    ∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
+      ∃ c : ℝ, c > 0 ∧ IsErdosHajnalLowerBound H (fun n : ℕ => exp (c * sqrt (log n))) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]:
```suggestion
theorem erdos_61.variants.erha89 :
    ∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
      ∃ c > (0 : ℝ) ∧ IsErdosHajnalLowerBound H (fun n : ℕ => exp (c * sqrt (log n))) := by
```

File: FormalConjectures/ErdosProblems/61.lean [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+/--
+Bucić, Nguyen, Scott, and Seymour [BNSS23] improved this to
+$f(n) = \exp(c_H \sqrt{\log n \log \log n})$ for some constant $c_H > 0$ dependending on $H$.
+
+[BNSS23] Bucić, M. and Nguyen, T. and Scott, A. and Seymour, P., A loglog step towards Erdos-Hajnal
+-/
+@[category research solved, AMS 05]
+theorem erdos_61.variants.bnss23:
+    ∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
+      ∃ c : ℝ, c > 0 ∧ IsErdosHajnalLowerBound H (fun n : ℕ => exp (c * sqrt (log n * log (log n)))) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/61.lean]:
```suggestion
theorem erdos_61.variants.bnss23 :
    ∀ {α : Type*} [Fintype α] [DecidableEq α] (H : SimpleGraph α),
      ∃ c > (0 : ℝ) ∧ IsErdosHajnalLowerBound H (fun n : ℕ => exp (c * sqrt (log n * log (log n)))) := by
```

**Review by Paul-Lez — APPROVED** [review]
A few (very minor) style comments but LGTM - thanks!

File: FormalConjectures/ErdosProblems/61.lean (hunk 5 above)
Comment (cosmicgenius) [reply FormalConjectures/ErdosProblems/61.lean]: The correct syntax should be `∃ c > (0 : ℝ), P c` right (not ∧)?

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/61.lean]: Indeed! Seems I went a little to quick on that suggestion:)

Comment (mo271) [reply FormalConjectures/ErdosProblems/61.lean]: (I updated the suggestion...)

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
